US04092321
5-(Phenylthio)-2-pyridone
A solution of 5-bromo-2-pyridone (17.3 g 0.1 mole) in N-methylpyrrolidinone (250 ml.) and potassium thiophenoxide (18.1 g, 0.12 mole) is heated at reflux for 12 hours under a nitrogen atmosphere. The reaction mixture is cooled and diluted with water. The product is collected by filtration, washed with water and dried to yeild 5-(phenylthio)-2-pyridone.

reactant | 5-bromo-2-pyridone | 0.1 mole, 17.3 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | potassium thiophenoxide | 0.12 mole, 18.1 g | [S-]C1=CC=CC=C1.[K+]
solvent | N-methylpyrrolidinone | 250 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 5-(Phenylthio)-2-pyridone | C1(=CC=CC=C1)SC=1C=CC(NC1)=O | C11H9NOS
